US07902181B2
(S)-tert-Butyl 1-cyano-2-(4-iodophenyl)ethylcarbamate (1.4 g) and formic acid (3 mL) were combined and heated at 50° C. for 10 min. Solvent was removed in vacuo and crude material was loaded onto an SCX cartridge. Non-basic impurities were washed off with methanol, then product was eluted with 10% ammonia in methanol. Solvent was removed in vacuo to give (S)-2-amino-3-(4-iodophenyl)propanenitrile (0.900 g).

reactant | (S)-tert-Butyl 1-cyano-2-(4-iodophenyl)ethylcarbamate | 1.4 g | C(#N)[C@H](CC1=CC=C(C=C1)I)NC(OC(C)(C)C)=O | C14H17IN2O2
solvent | formic acid | 3 mL | C(=O)O | CH2O2
product | (S)-2-amino-3-(4-iodophenyl)propanenitrile | 0.900 g | N[C@H](C#N)CC1=CC=C(C=C1)I | C9H9IN2
